US07238714B2
Step 1. tert-Butyl 4-({[(2-chloro-5-fluoropyridin-3-yl)carbonyl]amino}methyl)benzoate
To a stirred solution of 2-chloro-5-fluoronicotinic acid (2.0 g, 10 mmol) and tert-butyl 4-(aminomethyl)benzoate (1.65 g, 8 mmol) in dichloromethane (25 mL) were successively added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCI) (2.88 g, 15 mmol), 1-hydroxybenzotriazole hydrate (HOBT) (1.53 g, 10 mmol), and triethylamine (5 mL). After being stirred overnight, the reaction mixture was poured into water (100 mL). The organic layer_was separated and the aqueous layer was extracted with dichloromethane (50 mL×2). The combined organic layers were washed with brine (100 mL), dried (sodium sulfate), and evaporated. The residue was purified by flush column chromatography on silica gel (200 g) eluting with dichloromethane/ethyl acetate (20/1) to afford 2.39 g (82%) of the title compounds as white solids: 1H-NMR (CDCl3) δ 8.33 (1H, d, J=3.1 Hz), 7.97 (2H, d, J=8.4 Hz), 7.91 (1H, dd, J=7.9, 3.1 Hz), 7.40 (2H, d, J=8.4 Hz), 7.04 (1H, br.s), 4.70 (2H, d, J=5.9 Hz), 1.58 (9H, s).

reactant | 2-chloro-5-fluoronicotinic acid | 10 mmol, 2.0 g | ClC1=C(C(=O)O)C=C(C=N1)F | C6H3ClFNO2
reactant | tert-butyl 4-(aminomethyl)benzoate | 8 mmol, 1.65 g | NCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H17NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 15 mmol, 2.88 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 10 mmol, 1.53 g | O.ON1N=NC2=C1C=CC=C2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
product | tert-Butyl 4-({[(2-chloro-5-fluoropyridin-3-yl)carbonyl]amino}methyl)benzoate | 2.39 g, 82% | ClC1=NC=C(C=C1C(=O)NCC1=CC=C(C(=O)OC(C)(C)C)C=C1)F | C18H18ClFN2O3
